US08404740B2
(8-Butyl-1,4-dioxa-spiro[4.5]dec-8-yl)-dimethyl-amine hydrochloride (D-2)
8-Dimethylamino-1,4-dioxa-spiro[4.5]decane-8-carbonitrile B-1 (10.5 g, 50 mmol) was placed in THF (150 ml), under argon and while cooling with ice. In the course of 15 min., 2M butyl-magnesium chloride in THF (62.5 ml, 125 mmol) was added dropwise, and the mixture was stirred for 16 h at room temperature. 20% ammonium chloride solution (37 ml) and water (50 ml) were added to the mixture, while cooling with ice, and extraction with ether (3×50 ml) was carried out. The organic phase was washed with water (1×50 ml) and saturated sodium chloride solution (1×50 ml), and the organic phase was dried with Na2SO4 and concentrated in vacuo. The crude product (2.05 g) was dissolved in ethyl methyl ketone (75 ml); ClSiMe3 (9.5 ml, 75 mmol) was added, while cooling with ice, and stirring was carried out for 6 h at room temperature. The resulting white precipitate was filtered out with suction and dried in vacuo.

reactant | 8-Dimethylamino-1,4-dioxa-spiro[4.5]decane-8-carbonitrile | 50 mmol, 10.5 g | CN(C1(CCC2(OCCO2)CC1)C#N)C | C11H18N2O2
reactant | butyl-magnesium chloride | 2M | C(CCC)[Mg]Cl
reactant | ammonium chloride | 37 ml | [Cl-].[NH4+]
reactant | ClSiMe3 | 75 mmol, 9.5 ml | Cl[Si](C)(C)C | C3H9ClSi
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | THF | 125 mmol, 62.5 ml | C1CCOC1 | C4H8O
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | water | 50 ml | O | H2O
product | (8-Butyl-1,4-dioxa-spiro[4.5]dec-8-yl)-dimethyl-amine hydrochloride | Cl.C(CCC)C1(CCC2(OCCO2)CC1)N(C)C | InChI=1S/C14H27NO2.ClH/c1-4-5-6-13(15(2)3)7-9-14(10-8-13)16-11-12-17-14;/h4-12H2,1-3H3;1H
